US08378095B2
To a solution of 2-(2,6-difluorophenyl)-5-(4-(piperazin-1-yl)phenyl)oxazole-4-carboxamide (0.029 g, 0.075 mmol) in DCM (3 mL) was added triethylamine (12 uL, 0.086 mmol) followed by acetyl chloride (6 uL, 0.084 mmol). The resulting solution was stirred at room temperature for 2 hours when further portion of triethylamine (12 uL, 0.086 mmol) and acetyl chloride (6 uL, 0.084 mmol) were added and the reaction stirred at room temperature for 1 hour. The solvent was then removed in vacuo. The residue was purified by preparative HPLC to afford 5-(4-(4-acetylpiperazin-1-yl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.025 g, 0.059 mmol, 78%) as a white solid. 1H NMR (DMSO) 2.06 (3H, s), 3.28 (2H, m), 3.56 (2H, m, masked by water), 3.59 (4H, m), 7.08 (2H, d), 7.38 (2H, t), 7.63 (1H, br. s), 7.64 (1H, br. s), 7.72 (1H, m), 8.18 (2H, d). LCMS (2) Rt: 2.52 min; m/z (ES+) 427.

reactant | 2-(2,6-difluorophenyl)-5-(4-(piperazin-1-yl)phenyl)oxazole-4-carboxamide | 0.075 mmol, 0.029 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)N1CCNCC1 | C20H18F2N4O2
reactant | triethylamine | 0.086 mmol, 12 uL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.084 mmol, 6 uL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.086 mmol, 12 uL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.084 mmol, 6 uL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-(4-acetylpiperazin-1-yl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.059 mmol, 0.025 g, 78% | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C22H20F2N4O3
